US06855710B2
c) (Z)-3-[1-(4-piperidinomethyl-phenylamino)-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 39d from 3-[1-methoxy-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone and 4-piperidinomethyl-aniline.

reactant | 3-[1-methoxy-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone | COC(C1=CC=C(C=C1)OC)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O5
reactant | 4-piperidinomethyl-aniline | N1(CCCCC1)CC1=CC=C(N)C=C1 | C12H18N2
product | (Z)-3-[1-(4-piperidinomethyl-phenylamino)-1-(4-methoxyphenyl)-methylidene]-5-nitro-2-indolinone | N1(CCCCC1)CC1=CC=C(C=C1)N\C(\C1=CC=C(C=C1)OC)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C28H28N4O4
